US07566781B2
3-Phenylpropionic acid hydrazide
Methyl trans-cinnamate (1.0 g) and hydrazine (1.2 mL) were heated in methanol (25 mL) at 60° C. for 20 hours. The reaction solution was concentrated under reduced pressure, and the resulting residue was purified through silica gel column chromatography (ethyl acetate/methanol=95/5)to obtain a mixture of the entitled compound and an olefin-unreduced compound (2/1) (499 mg).

reactant | Methyl trans-cinnamate | 1.0 g | C(\C=C\C1=CC=CC=C1)(=O)OC | C10H10O2
reactant | hydrazine | 1.2 mL | NN | H4N2
solvent | methanol | 25 mL | CO | CH4O
product | 3-Phenylpropionic acid hydrazide | C1(=CC=CC=C1)CCC(=O)NN | C9H12N2O
